US04625047
To a stirred suspension of [2,3-dichloro-4-(1-oxo-ethyl)phenoxy]acetic acid (15.78 g 0.06 mole) in 75 ml ethanol was added benzaldehyde (7.95 g, 0.075 mole) with stirring under nitrogen, followed by NaOH (8.0 g, 0.20 mole) in 16 ml of water. An additional 150 ml of ethanol was added and stirring was continued. The reaction mixture was heated at reflux for 11/2 hours, poured into ice water and acidified with hydrochloric acid. The mixture was extracted with ethyl acetate and methylene chloride, washed with dilute hydrochloric acid, then brine, dried over magnesium sulfate and concentrated under reduced pressure to give 8.7 g of [2,3-dichloro-4-(1-oxo-3-phenyl-2-propenyl)phenoxy]acetic acid which melted at 190°-191° C. after recrystallization from acetonitrile.

reactant | [2,3-dichloro-4-(1-oxo-ethyl)phenoxy]acetic acid | 0.06 mole, 15.78 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C)=O | C10H8Cl2O4
reactant | benzaldehyde | 0.075 mole, 7.95 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaOH | 0.20 mole, 8.0 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 16 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | [2,3-dichloro-4-(1-oxo-3-phenyl-2-propenyl)phenoxy]acetic acid | 8.7 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C=CC1=CC=CC=C1)=O | C17H12Cl2O4
